US05565464
4-Butyl-6-hydroxymethyl-2-methyl-5-[(2'-methoxycarbonylbiphenyl-4-yl) methyl]pyrimidine
A solution containing 0.5 g of 4-benzyloxymethyl-6-butyl -2-methyl-5-[(2'-methoxycarbonylbiphenyl-4-yl) methyl]pyrimidine in 50 ml of EtOH was hydrogenated in presence of 0.1 g of 10% palladium on charcoal at atmospheric pressure and room temperature. After the theoretical hydrogen absorption the reaction mixture was filtered on Celite® and the solvent was evaporated obtaining 0.38 g of a clear oil, which was directly used without further purification (yield 95%).

reactant | 4-benzyloxymethyl-6-butyl -2-methyl-5-[(2'-methoxycarbonylbiphenyl-4-yl) methyl]pyrimidine | 0.5 g | C(C1=CC=CC=C1)OCC1=NC(=NC(=C1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC)CCCC)C | C32H34N2O3
solvent | EtOH | 50 ml | CCO | C2H6O
catalyst | palladium on charcoal | 0.1 g | [Pd] | Pd
product | 4-Butyl-6-hydroxymethyl-2-methyl-5-[(2'-methoxycarbonylbiphenyl-4-yl) methyl]pyrimidine | 0.38 g, yield 95% | C(CCC)C1=NC(=NC(=C1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC)CO)C | C25H28N2O3
